US06995162B2
1-Boc-4-(5-nitro-2-pentafluoroethyl-benzyl)-piperazine.
2-Bromomethyl-4-nitro-1-pentafluoroethyl-benzene (2.5 g) was dissolved in CH2Cl2 and added to N-Boc-piperazine (2.5 g) and NaHCO3 (1 g) and stirred at RT overnight. The mixture was diluted with CH2Cl2 (100 ml), washed with sat'd NH4Cl, dried over MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography (hexane, CH2Cl2:hexane 2:8) to give the compound as an yellow solid.

reactant | 2-Bromomethyl-4-nitro-1-pentafluoroethyl-benzene | 2.5 g | BrCC1=C(C=CC(=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C9H5BrF5NO2
reactant | N-Boc-piperazine | 2.5 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | NaHCO3 | 1 g | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Boc-4-(5-nitro-2-pentafluoroethyl-benzyl)-piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)CC1=C(C=CC(=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C18H22F5N3O4
